US08217177B2
To a flask charged with 3-(benzyloxy)-6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinoline (10 mg, 20 μmol) was added trifluoroacetic acid (1.5 mL, 20 mmol). The resulting solution was heated at 65° C. for 18 h. The solution was concentrated for purification by MPLC using 98:2 CH2Cl2:MeOH to 90:10 CH2Cl2:MeOH gradient to afford 6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinolin-3-ol (3.6 mg, 44% yield) as a colorless solid. LRMS (ESI) m/z calcd for C20H14F3N6O (M+H) 411.1. found 411.3.

reactant | 3-(benzyloxy)-6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinoline | 20 μmol, 10 mg | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(C=C2C1)C(C1=NN=C2N1C=C(C=C2F)C=2C=NN(C2)C)(F)F | C27H19F3N6O
reactant | trifluoroacetic acid | 20 mmol, 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 6-(difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinolin-3-ol | 3.6 mg, 44% yield | FC(C=1C=C2C=C(C=NC2=CC1)O)(C1=NN=C2N1C=C(C=C2F)C=2C=NN(C2)C)F | C20H13F3N6O
